US06762180B1
(101) 3-Z-[1-(4-(N-((4-benzyl-piperazin-1-yl)-methylcarbonyl)-N-methyl-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and N-((4-benzyl-piperazin-1-yl)-methylcarbonyl)-N-methyl-p-phenylenediamine Rf value: 0.5 (silica gel, methylene chloride/methanol=9:1) C37H37N5O4

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | N-((4-benzyl-piperazin-1-yl)-methylcarbonyl)-N-methyl-p-phenylenediamine | C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)N(C1=CC=C(C=C1)N)C | C20H26N4O
product | 3-Z-[1-(4-(N-((4-benzyl-piperazin-1-yl)-methylcarbonyl)-N-methyl-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)N(C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C37H37N5O4
